US04647694
5-(4-methoxy-benzyl)-hydantoin (IV)
218.2 g (1 mole) of 5-(4-methoxy-benzylidene)-hydantoin are dissolved in 2 l of a N sodium hydroxide solution and 50 g of wet Raney-nickel are added. The reaction mixture is worked up according to Example 6. Thus 180.6 g of the desired compound are obtained, yield 82 %. Mp.: 174° C.

reactant | 5-(4-methoxy-benzylidene)-hydantoin | 1 mole, 218.2 g | COC1=CC=C(C=C2C(NC(N2)=O)=O)C=C1 | C11H10N2O3
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | Raney-nickel | 50 g | [Ni] | Ni
product | 5-(4-methoxy-benzyl)-hydantoin | 180.6 g, yield 82 % | COC1=CC=C(CC2C(NC(N2)=O)=O)C=C1 | C11H12N2O3
